* source OUTPUT-BUFFER
X_U1         N00721 N00725 VCC 0 N00725 TL07XH_TL08XH
V_VCC         VCC 0 9Vdc
V_VIN         VIN 0  AC 1
+SIN 0 500mV 440 0 0 0
R_R_VREF_TOP         N00534 VCC  47k TC=0,0 
R_R_VREF_BOTTOM         0 N00534  47k TC=0,0 
C_C_VREF_FILTER         0 N00534  10u  TC=0,0 
R_R_VREF_IN         N00534 N00721  1MEG TC=0,0 
C_C_OUT_COUPLING         N00725 N01303  4.7u  TC=0,0 
C_C_IN_COUPLING         N00721 N00958  2.2u  TC=0,0 
R_R_VIN_TOP         N00958 VIN  47k TC=0,0 
R_R_VIN_BOTTOM         0 N00958  47k TC=0,0 
R_R_OUT_BLEED         0 N01303  100k TC=0,0 
R_R_OUT         N01303 N02047  330 TC=0,0 
R_R_LOAD         0 N02047  100k TC=0,0 
